US06489046B1
(3) Preparation of 1,4-anthraquinone
In an atmosphere of argon, 60 g (550 mmole) of 1,4-benzoquinone, 100 g (240 mmole) of 1,2-bis(dibromomethyl)benzene and 235 g (1.6 mole) of sodium iodide were dissolved into 850 ml of dry dimethylformamide. After the exothermic reaction was completed, the reaction solution was heated to 70° C. and stirred for 8 hours. After the reaction was completed, the formed crystals were separated by filtration and washed with methanol and water and 23 g (the yield: 47%) of light yellow needle crystals of 1,4-anthraquinone were obtained.

reactant | 1,4-benzoquinone | 550 mmole, 60 g | C1(C=CC(C=C1)=O)=O | C6H4O2
reactant | 1,2-bis(dibromomethyl)benzene | 240 mmole, 100 g | BrC(C1=C(C=CC=C1)C(Br)Br)Br | C8H6Br4
reactant | sodium iodide | 1.6 mole, 235 g | [I-].[Na+]
solvent | dimethylformamide | 850 ml | CN(C=O)C | C3H7NO
product | 1,4-anthraquinone | yield: 47% | C1(C=CC(C2=CC3=CC=CC=C3C=C12)=O)=O | C14H8O2
